US08802864B2
a) 1,1-dimethylethyl (3S)-3-(2-hydrazino-2-oxoethyl)-1-pyrrolidinecarboxylate
A solution of ((3S)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-3-pyrrolidinyl)acetic acid (5 g, 21.81 mmol) in diethyl ether (50 mL) was treated with N,N-dimethyl-4-pyridinamine (2.181 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide(HCl) (23.99 mmol), and ethanol (48.0 mmol) and was stirred at room temperature overnight. Analysis by LCMS indicated that all starting material had converted to the desired methyl ester. The reaction contents were diluted with ether (100 mL) and washed with saturated aq NaHSO4 solution, water, and brine. The organic phase was dried over magnesium sulfate, filtered and concentrated to dryness in vacuo. The resulting clear oil was dissolved in ethanol (25 mL), treated with hydrazine monohydrate (436 mmol), and was stirred overnight at 80° C. LCMS analysis indicated complete conversion of the intermediate. The reaction solution was concentrated to dryness in vacuo to afford the title compound as a clear oil (4.65 grams, 88% yield). No further purification was utilized. MS(ES)+ m/e 244.2 [M+H]+.

reactant | ((3S)-1-{[(1,1-dimethylethyl)oxy]carbonyl}-3-pyrrolidinyl)acetic acid | 21.81 mmol, 5 g | CC(C)(C)OC(=O)N1C[C@@H](CC1)CC(=O)O | C11H19NO4
reactant | ethanol | 48.0 mmol | C(C)O | C2H6O
reactant | hydrazine monohydrate | 436 mmol | O.NN
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
catalyst | N,N-dimethyl-4-pyridinamine | 2.181 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ether | 100 mL | CCOCC | C4H10O
product | 1,1-dimethylethyl (3S)-3-(2-hydrazino-2-oxoethyl)-1-pyrrolidinecarboxylate | 4.65 grams, 88% yield | N(N)C(C[C@H]1CN(CC1)C(=O)OC(C)(C)C)=O | C11H21N3O3
